US05849732
Conc. sulfuric acid (0.4 ml) was added to a mixed solution comprising 3.3 g of 2,4-dimethoxybenzaldehyde and 30 ml of methanol, and under ice-cooling, 2.93 ml of 30% hydrogen peroxide aqueous solution was added to the mixture. After stirring at room temperature for 4 hours, a 5% aqueous potassium hydrogen sulfite solution was added to the mixture and the solvent was removed under reduced pressure. The residue was extracted with diethyl ether, the extract was washed and dried and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (solvent; hexane:ethyl acetate=4:1) to give 2.1 g of 2,4-dimethoxyphenol (yield: 69%, state: colorless oily product).

reactant | sulfuric acid | 0.4 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2,4-dimethoxybenzaldehyde | 3.3 g | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
reactant | hydrogen peroxide | 2.93 ml | OO | H2O2
reactant | potassium hydrogen sulfite | S(=O)(O)[O-].[K+]
solvent | methanol | 30 ml | CO | CH4O
product | 2,4-dimethoxyphenol | 2.1 g, yield: 69% | COC1=C(C=CC(=C1)OC)O | C8H10O3
